* Miller OTA - IHP SG13G2 130nm BiCMOS
* Stage 1: nMOS diff pair + pMOS mirror load
X1a n1  inp ns ns  sg13_lv_nmos W={W1} L={L1} AS={AS1} PS={PS1} AD={AD1} PD={PD1}
X1b out inn ns ns  sg13_lv_nmos W={W1} L={L1} AS={AS1} PS={PS1} AD={AD1} PD={PD1}
X4a n1  n1  VDD VDD sg13_lv_pmos W={W4} L={L4} AS={AS4} PS={PS4} AD={AD4} PD={PD4}
X4b out n1  VDD VDD sg13_lv_pmos W={W4} L={L4} AS={AS4} PS={PS4} AD={AD4} PD={PD4}
* Stage 2: pMOS CS + nMOS current source
X2  vout out VDD VDD sg13_lv_pmos W={W2} L={L2} AS={AS2} PS={PS2} AD={AD2} PD={PD2}
X5b vout nb2 0   0   sg13_lv_nmos W={W5} L={L5} AS={AS5} PS={PS5} AD={AD5} PD={PD5}
* Bias mirror
X3a nb  nb  0 0 sg13_lv_nmos W={W3} L={L3} AS={AS3} PS={PS3} AD={AD3} PD={PD3}
X3b ns  nb  0 0 sg13_lv_nmos W={W3} L={L3} AS={AS3} PS={PS3} AD={AD3} PD={PD3}
* Second stage mirror diode for M5
X5a nb2 nb2 0 0 sg13_lv_nmos W={W5} L={L5} AS={AS5} PS={PS5} AD={AD5} PD={PD5}
Ibias2 VDD nb2 {Ib2}
.param Ib2=3.6824569840328265e-06
* Compensation and load
Cc n1 vout {Cc}
CL vout 0 {CL}
* Supply and input
Ib VDD nb {2*Ib}
VVDD VDD 0 {VDD}
Vic ic 0 {Vic}
Vid id 0 DC={Vos} AC=1
Einp inp ic id 0 0.5
Einn inn ic id 0 -0.5
